US09085576B2
Step 1: Synthesis of 5-chloro-3-methylpicolinonitrile
A mixture of 2-bromo-5-chloro-3-methylpyridine (45 g, 218 mmol), zinc cyanide (8.30 mL, 131 mmol), tris(dibenzylideneacetone) dipalladium (0) (4.99 g, 5.45 mmol), and 1,1′-bis(diphenylphosphino)ferrocene (6.04 g, 10.90 mmol) in dimethylacetamide (40 mL) was heated to 110° C. for 4 hours. The reaction mixture was cooled to RT, diluted with water and extracted with ethyl acetate. The organic phase obtained was concentrated under reduced pressure and residue purified by chromatography on silica gel using ISCO eluting with 0-60% EtOAc/hex to afford the title compound 5-chloro-3-methylpicolinonitrile (25.4 g, 166 mmol, 76% yield). LC/MS (ESI+) m/z=153.1 (M+H).

reactant | 2-bromo-5-chloro-3-methylpyridine | 218 mmol, 45 g | BrC1=NC=C(C=C1C)Cl | C6H5BrClN
reactant | dimethylacetamide | 40 mL | CC(=O)N(C)C | C4H9NO
solvent | water | O | H2O
catalyst | zinc cyanide | 131 mmol, 8.30 mL | [C-]#N.[Zn+2].[C-]#N
catalyst | tris(dibenzylideneacetone) dipalladium (0) | 5.45 mmol, 4.99 g | [Pd].[Pd].C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | 10.90 mmol, 6.04 g | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | 5-chloro-3-methylpicolinonitrile | 166 mmol, 25.4 g, 76% yield | ClC=1C=C(C(=NC1)C#N)C | C7H5ClN2
